US04113871
By reaction of ethyl β-[4-(aminomethyl)-phenyl]-propionate hydrochloride (m.p. 192°-193° C.) with 5-chloro-2-methoxybenzoyl chloride, there is obtained β-[4-(5-chloro-2-methoxybenzamidomethyl)-phenyl]-propionic acid; m.p. 152°-153° C., after recrystallization from isopropanol.

reactant | ethyl β-[4-(aminomethyl)-phenyl]-propionate hydrochloride | Cl.NCC1=CC=C(C=C1)CCC(=O)OCC
reactant | 5-chloro-2-methoxybenzoyl chloride | ClC=1C=CC(=C(C(=O)Cl)C1)OC | C8H6Cl2O2
product | β-[4-(5-chloro-2-methoxybenzamidomethyl)-phenyl]-propionic acid | ClC=1C=CC(=C(C(=O)NCC2=CC=C(C=C2)CCC(=O)O)C1)OC | C18H18ClNO4
